US07745641B2
In a similar manner to Step 1 of Example 227, 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.188 g, 0.382 mmol) was dissolved in acetonitrile (8.0 mL), and the solution was treated with triethylamine (0.160 mL, 1.15 mmol) and 3-fluoro-4-methylbenzenesulfonyl chloride (0.120 mg, 0.574 mmol) to obtain 4-(3-fluoro-4-methylbenzenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0690 g, yield 27%).

reactant | 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.382 mmol, 0.188 g | OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C28H33N3O5
reactant | triethylamine | 1.15 mmol, 0.160 mL | C(C)N(CC)CC | C6H15N
reactant | 3-fluoro-4-methylbenzenesulfonyl chloride | 0.574 mmol, 0.120 mg | FC=1C=C(C=CC1C)S(=O)(=O)Cl | C7H6ClFO2S
solvent | acetonitrile | 8.0 mL | C(C)#N | C2H3N
product | 4-(3-fluoro-4-methylbenzenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0690 g, yield 27% | FC=1C=C(C=CC1C)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C35H38FN3O7S
